US09120749B2
{6-(3-Chloro-4-hydroxyphenyl)-4-[2-(piperazin-1-yl)ethylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 4-{2-[6-(3-Chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]ethyl}piperazine-1-carboxylate (40 mg, 0.073 mmol) was reacted with TFA (2 mL) to afford the desired product (23 mg, 35%) as a yellow solid: 1H NMR (500 MHz, DMSO-d6) δ 10.00 (s, 1H), 9.09 (s, 1H), 8.46 (d, J=1.8 Hz, 1H), 7.98 (dd, J=8.7, 1.9 Hz, 1H), 7.85 (d, J=8.7 Hz, 1H), 7.78 (d, J=2.3 Hz, 1H), 7.61 (dd, J=8.5, 2.3 Hz, 1H), 7.09 (d, J=8.4 Hz, 1H), 3.82 (d, J=5.2 Hz, 2H), 2.95-2.82 (m, 1H), 2.68 (t, J=4.7 Hz, 4H), 2.55 (t, J=6.0 Hz, 2H), 2.35 (s, 4H), 1.11-0.97 (m, 4H); ESI MS m/z 451 [C25H27ClN4O2+H]+; HPLC>99% (AUC), tR=9.32 min.

reactant | tert-butyl 4-{2-[6-(3-Chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]ethyl}piperazine-1-carboxylate | 0.073 mmol, 40 mg | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCCN1CCN(CC1)C(=O)OC(C)(C)C | C30H35ClN4O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {6-(3-Chloro-4-hydroxyphenyl)-4-[2-(piperazin-1-yl)ethylamino]quinolin-3-yl}(cyclopropyl)methanone | 23 mg, 35% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCCN1CCNCC1 | C25H27ClN4O2
